US07943669B2
Step A: {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-phenylethynyl-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
[4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (0.25 g; 0.60 mmol), 3-morpholin-4-yl-propan-1-ol (0.12 g; 0.84 mmol) and tributylphosphine (0.27 mL; 1.08 mmol) were dissolved in THF (20 mL) in a dried reaction flask under an atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (0.27 g; 1.08 mmol) dissolved in THF (10 mL) was added to the reaction mixture, which was stirred at room temperature for 16 h. The reaction mixture was evaporated to dryness, acetonitrile added, and the mixture filtered. The solution was purified by prep HPLC (method A). Yield: 150 mg. HPLC-MS: m/z: 546.6 (M+H); Rt: 2.08 min.

reactant | [4-(3-Hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.60 mmol, 0.25 g | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)O)C)=O | C25H22O4S
reactant | 3-morpholin-4-yl-propan-1-ol | 0.84 mmol, 0.12 g | N1(CCOCC1)CCCO | C7H15NO2
reactant | tributylphosphine | 1.08 mmol, 0.27 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 1.08 mmol, 0.27 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {2-Methyl-4-[3-(3-morpholin-4-yl-propoxy)-5-phenylethynyl-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCCCN1CCOCC1)C)=O | C32H35NO5S
